US08283354B2
To a solution of (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one (230 mg, 0.51 mmol) in CH2Cl2 (3 mL) under an inert atmosphere was added dropwise a 2 M HCl solution in ether (0.255 mL, 0.51 mmol). To it was then added ether (15 mL) which resulted in formation of a precipitate that was allowed to stir for an hour. The product was collected by vacuum filtration and dried to afford (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one hydrochloride (230 mg, 92%). LCMS: m/z 453.5 (M+H)+ at 3.19 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.40 (dd, J=7.8, 1.4 Hz, 1H), 8.04 (m, 1H), 7.88 (m, 2H), 7.43 (m, 1H), 6.99 (m, 2H), 4.45 (dd, J=8.8, 3.0 Hz, 1H), 4.02 (m, 4H), 3.79 (m, 4H), 1.56 (m, 1H), 1.42 (m, 1H), 0.97 (s, 9H).

reactant | (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one | 0.51 mmol, 230 mg | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1CCN(CC1)C([C@@H](CC(C)(C)C)O)=O | C25H29FN4O3
reactant | HCl | 2 M | Cl | ClH
reactant | ether | 0.51 mmol, 0.255 mL | CCOCC | C4H10O
reactant | ether | 15 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one hydrochloride | 230 mg, 92% | Cl.FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1CCN(CC1)C([C@@H](CC(C)(C)C)O)=O | InChI=1S/C25H29FN4O3.ClH/c1-25(2,3)15-21(32)24(33)30-12-10-29(11-13-30)23-18-14-16(26)8-9-19(18)27-22(28-23)17-6-4-5-7-20(17)31;/h4-9,14,21,31-32H,10-13,15H2,1-3H3;1H/t21-;/m1./s1
